### PR TITLE
[Merged by Bors] - chore(DirectSum): clean up instances

### PR DESCRIPTION
**Pull request by JovanGerb**
Clean up instances on `DirectSum` using `InferInstanceAs`.
Clean up instances in `TensorProduct/Graded`, which depend on the `DirectSum` instances.
Golf away some `backward` options.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 1]
```diff
@@ -40,18 +40,18 @@ variable {ι : Type v}
...
+  inferInstanceAs <| SMulCommClass R S (Π₀ i, M i)
 
 instance {S : Type*} [Semiring S] [SMul R S] [∀ i, Module S (M i)] [∀ i, IsScalarTower R S (M i)] :
     IsScalarTower R S (⨁ i, M i) :=
-  DFinsupp.isScalarTower
+  inferInstanceAs <| IsScalarTower R S (Π₀ i, M i)
 
 instance [∀ i, Module Rᵐᵒᵖ (M i)] [∀ i, IsCentralScalar R (M i)] : IsCentralScalar R (⨁ i, M i) :=
-  DFinsupp.isCentralScalar
+  inferInstanceAs <| IsCentralScalar R (Π₀ i, M i)
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:54]: Note that these last three are propositions so the change doesn't really matter.

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 2]
```diff
@@ -248,20 +244,17 @@ private theorem mul_assoc (a b c : ⨁ i, A i) : a * b * c = a * (b * c) := by
...
-    mul_one := mul_one A
-    mul_assoc := mul_assoc A
-    toNatCast := instNatCast _
-    natCast_zero := by simp only [NatCast.natCast, GSemiring.natCast_zero, map_zero]
-    natCast_succ := fun n => by
-      simp_rw [NatCast.natCast, GSemiring.natCast_succ]
-      rw [map_add]
-      rfl }
+instance semiring : Semiring (⨁ i, A i) where
+  one_mul := private one_mul A
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Ring.lean:249]: Whoa, what's this syntax, and when was it introduced?

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 3]
```diff
@@ -610,26 +591,22 @@ variable (ι)
...
+  mul_zero := mul_zero
+  zero_mul := zero_mul
+  mul_add := mul_add
+  add_mul := add_mul
 
 /-- A direct sum of copies of a `Semiring` inherits the multiplication structure. -/
 instance Semiring.directSumGSemiring {R : Type*} [AddMonoid ι] [Semiring R] :
     DirectSum.GSemiring fun _ : ι => R where
-  __ := NonUnitalNonAssocSemiring.directSumGNonUnitalNonAssocSemiring ι
-  __ := Monoid.gMonoid ι
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Ring.lean:624]: In general, dropping these can be a little risky as it increases the chance of fields being defaulted to something that creates a diamond. Maybe the real risky thing here is having default fields in the first place

**Review by eric-wieser — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/DirectSum/Ring.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Algebra/DirectSum/Ring.lean:249]: This was introduced together with the module system. You can now write `pivate` after the `:=` to wrap the field in an auxiliary, non-exposed declaration. Alternatively, `by exact` also works.

File: Mathlib/Algebra/DirectSum/Ring.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Algebra/DirectSum/Ring.lean:624]: Hmm. My experience so far has been that dropping these can lead to better performance, because Lean automatically puts them in the "right" order, and they might not have been in the "right" order before.

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Ring.lean:624]: Note that `fast_instance%` was designed to allow the best of both worlds, where the wrong order is corrected at a small one-time cost. Of course, then you lose the `where` syntax...
